US06610688B2
Synthesis of 4-(3-Chloro-4-fluoro-phenylamino)-5-[5-(4-ethyl-piperazine-1-carbonyl)-3-methyl-1H-pyrrol-2-yl-methylene]-5,7-dihydro-pyrrolo[2,3-D]pyrimidin-6-one (Formula 54)
A mixture of 4-(3-chloro-4-fluoro-phenylamino)-5,7-dihydro-pyrrolo[2,3-d]pyrimidin-6-one (70 mg, 0.25 mmol), 5-(4-ethyl-piperazine-1-carbonyl)-3-methyl-1H-pyrrole-2-carbaldehyde (74.8 mg, 0.3 mmol) and piperidine (3 drops) in ethanol (2 mL) was stirred at room temperature for overnight. The precipitate was collected by vacuum filtration, washed with ethanol and dried to give 93 mg (73%) of the title compound. 1H NMR (300 MHz, DMSN d6) δ 3.40 (br s, 1H, NH), 11.81 (br s, 1H, NH), 9.28 (br s, 1H), 8.33 (s, 1H), 7.72 (m, 1H), 7.33-7.45 (m, 3H), 6.58 (m, 1H), 3.68 (m, 4H, 2×CH2), 2.31-2.42 (m, 6H), 2.22 (s, 3H, CH3), 1.01 (t, J=7.2 Hz, 3H, CH2CH3). MS 510 [M++1].

reactant | 4-(3-chloro-4-fluoro-phenylamino)-5,7-dihydro-pyrrolo[2,3-d]pyrimidin-6-one | 0.25 mmol, 70 mg | ClC=1C=C(C=CC1F)NC=1C2=C(N=CN1)NC(C2)=O | C12H8ClFN4O
reactant | 5-(4-ethyl-piperazine-1-carbonyl)-3-methyl-1H-pyrrole-2-carbaldehyde | 0.3 mmol, 74.8 mg | C(C)N1CCN(CC1)C(=O)C1=CC(=C(N1)C=O)C | C13H19N3O2
catalyst | piperidine | 3 drops | N1CCCCC1 | C5H11N
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 4-(3-Chloro-4-fluoro-phenylamino)-5-[5-(4-ethyl-piperazine-1-carbonyl)-3-methyl-1H-pyrrol-2-yl-methylene]-5,7-dihydro-pyrrolo[2,3-D]pyrimidin-6-one | 93 mg, 73% | ClC=1C=C(C=CC1F)NC=1C2=C(N=CN1)NC(C2=CC=2NC(=CC2C)C(=O)N2CCN(CC2)CC)=O | C25H25ClFN7O2
